US06881733B1
1-benzyl-3-methyl-4-hydroxy-4-(5-chlorobenzofur-7-yl)piperidine
Beginning with 4.0 gm (17.3 mMol) 5-chloro-7-bromobenzofuran and 3.86 gm (19.0 mMol) 1-benzyl-3-methyl-4-oxo-piperidine, 5.6 gm (92%) of the desired compound were recovered essentially as described in EXAMPLE 3.

reactant | 5-chloro-7-bromobenzofuran | 17.3 mMol, 4.0 gm | ClC=1C=C(C2=C(C=CO2)C1)Br | C8H4BrClO
reactant | 1-benzyl-3-methyl-4-oxo-piperidine | 19.0 mMol, 3.86 gm | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
product | 1-benzyl-3-methyl-4-hydroxy-4-(5-chlorobenzofur-7-yl)piperidine | 5.6 gm, 92% | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=CC(=CC=2C=COC21)Cl)O)C | C21H22ClNO2
